US08633189B2
4-Bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate (1000 mg, 2.9 mmol), Pd(PPh3)2Cl2 (102 mg, 0.15 mmol), and CuI (17 mg, 0.087 mmol) were added to a large microwave tube which was flushed with N2 and capped. In a separate flask, DMF (10 mL), triethylamine (10 mL), and N,N-dimethylprop-2-yn-1-amine (725 mg, 929 μL, 8.72 mmol) were added and degassed by N2 bubbling (10 min). The degassed solution was then cannulated into the capped microwave tube under N2 atmosphere and heated under microwave irradiation for 10 min at 100° C. resulting in product formation with partial loss of the carbonate group. The reaction was diluted with ethyl acetate, washed with 50% saturated sodium bicarbonate solution (2×20 mL), water, and brine. The solution was dried over Na2SO4, filtered, and dried down to a red solid. The crude reaction mixture was dissolved in dichloromethane (35 mL) and triethylamine (1.17 g, 1.62 mL, 11.62 mmol) and treated dropwise with methyl chloroformate (549 mg, 449 μL, 5.81 mmol) at room temperature. The reaction was stirred for 10 min then diluted with ethyl acetate, washed with 50% saturated sodium bicarbonate solution (2×20 mL), water, and brine. The solution was dried over Na2SO4, filtered, and dried down to provide 2-cyclopentyl-4-(3-(dimethylamino)prop-1-ynyl)-5-nitrophenyl methyl carbonate as a brown/orange solid. 1H NMR (400.0 MHz, DMSO-d6) δ 8.14 (s, 1H), 7.68 (s, 1H), 3.89 (d, J=3.9 Hz, 3H), 3.54 (s, 2H), 3.23 (s, 1H), 3.14 (dd, J=9.3, 17.1 Hz, 1H), 2.25 (d, J=8.2 Hz, 6H), 1.99-1.92 (m, 2H), 1.79-1.73 (m, 2H), 1.69-1.51 (m, 3H).

reactant | 4-Bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate | 2.9 mmol, 1000 mg | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])Br)C1CCCC1)(OC)=O | C13H14BrNO5
reactant | N,N-dimethylprop-2-yn-1-amine | 8.72 mmol, 929 μL, 725 mg | CN(CC#C)C | C5H9N
reactant | methyl chloroformate | 5.81 mmol, 449 μL, 549 mg | ClC(=O)OC | C2H3ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
catalyst | Pd(PPh3)2Cl2 | 0.15 mmol, 102 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.087 mmol, 17 mg | [Cu]I
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 11.62 mmol, 1.62 mL, 1.17 g | C(C)N(CC)CC | C6H15N
product | 2-cyclopentyl-4-(3-(dimethylamino)prop-1-ynyl)-5-nitrophenyl methyl carbonate | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])C#CCN(C)C)C1CCCC1)(OC)=O | C18H22N2O5
